US07439237B2
(9g) methyl (S)-2-(3-chloro-4-hydroxy-5-trifluoromethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-yl)-piperidin-1-yl]-butanoate
A mixture of 1.19 g (4.9 mmol) 1-methyl (S)-2-(3-chloro-4-hydroxy-5-trifluoromethyl-benzyl)-succinate, 1.56 g (4.9 mmol) TBTU, 0.73 ml (5.0 mmol) triethylamine, 1.65 g (4.8 mmol) 3-piperidin-4-yl-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one and 30 ml DMF was stirred for 12 hours at RT. The reaction mixture was evaporated down under reduced pressure, the residue was taken up in 200 ml EtOAc and washed with 200 ml 10% citric acid solution and 50 ml saturated aqueous sodium hydrogen carbonate solution. The organic phase was dried and evaporated down under reduced pressure.

reactant | 1-methyl (S)-2-(3-chloro-4-hydroxy-5-trifluoromethyl-benzyl)-succinate | 4.9 mmol, 1.19 g | ClC=1C=C(C[C@H](C(=O)OC)CC(=O)[O-])C=C(C1O)C(F)(F)F
reactant | TBTU | 4.9 mmol, 1.56 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 5.0 mmol, 0.73 ml | C(C)N(CC)CC | C6H15N
reactant | 3-piperidin-4-yl-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | 4.8 mmol, 1.65 g | N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C14H19N3O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | methyl (S)-2-(3-chloro-4-hydroxy-5-trifluoromethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-yl)-piperidin-1-yl]-butanoate | ClC=1C=C(C[C@H](C(=O)OC)CC(N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)=O)C=C(C1O)C(F)(F)F | C27H29ClF3N3O5
